US05061703
A. Preparation of Adamantane Methyl Carboxylate (I)
Stir 1.0 mol of adamantane carboxylic acid in 600 ml of methanol. Under ice cooling, drop 1.53 mol of acetyl chloride into the solution within 1 h. Remove the ice bath, and allow the reaction mixture to reach room temperature. Subsequently, heat for 3 hrs under reflux. Evaporate the reaction mixture to dryness under vacuum and distill. (Yield: 97%).

reactant | adamantane carboxylic acid | 1.0 mol | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | acetyl chloride | 1.53 mol | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 600 ml | CO | CH4O
product | Adamantane Methyl Carboxylate | Yield: 97% | CC(=O)O.C12CC3CC(CC(C1)C3)C2 | InChI=1S/C10H16.C2H4O2/c1-7-2-9-4-8(1)5-10(3-7)6-9;1-2(3)4/h7-10H,1-6H2;1H3,(H,3,4)
